US06498166B1
iii) 2-(4-Fluorophenyl)pyrazolo[1,5-a]pyridine
Solid t-butoxycarbonyl-O-mesitylenesulfonylhydroxylamine (17.26 54.6 mmol) was added portionwise with stirring to TFA (50 ml) over 10 min then stirred for a further 30 minutes. The solution was poured onto ice (˜250 ml) and left until the ice melted. The resulting white solid was filtered off, washed with water, and dissolved in chloroform (200 ml). The solution was dried over 4 Å mol. sieves for 1.5 hours, filtered and 1-(4-fluorophenyl)-2-pyridin-2-ylethanone oxime (6.29 g 27.3 mmol) in chloroform (100 ml) was added. The reaction was stirred at room temperature for 18 hours, washed with water (2×50 ml) and dried. Removal of solvent gave a brown solid which was purified by biotage chromatography. Elution with cyclohexane/ethyl acetate (20/1) gave the title compound as a yellow solid (4.09 g 71%). MH+: 213; NMR: (CDCl3): δ 6.75 (2H, m) 7.10 (3H, m) 7.50 (1H, d) 7.95 (2H, m) 8.45 (1H, d).

reactant | t-butoxycarbonyl-O-mesitylenesulfonylhydroxylamine | 54.6 mmol | C(C)(C)(C)OC(=O)NOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C14H21NO5S
reactant | TFA | 50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1-(4-fluorophenyl)-2-pyridin-2-ylethanone oxime | 27.3 mmol, 6.29 g | FC1=CC=C(C=C1)C(CC1=NC=CC=C1)=NO | C13H11FN2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Fluorophenyl)pyrazolo[1,5-a]pyridine | 4.09 g, 71% | FC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1 | C13H9FN2
